US03956315
Example 1-- Preparation of N-(3-cyano-4-sec-butylthien-2-yl)-N'-methyl urea
A solution of 5 g 2-amino-3-cyano-4-sec-butylthiophene and 10 ml methyl isocyanate in 20 ml dimethoxyethane was stirred at about 25°C. for 2 days and then at reflux for 6 hours. The reaction mixture was evaporated under reduced pressure and the residue was chromatographed on a silica-gel column. The product, a white solid melting at 149°-152°C., was eluted with 70% ether-30% hexane. The infrared spectrum of the product showed cyano absorption at 4.5 microns. Sulfur analysis for the product is tabulated in Table I.

reactant | 2-amino-3-cyano-4-sec-butylthiophene | 5 g | NC=1SC=C(C1C#N)C(C)CC | C9H12N2S
reactant | methyl isocyanate | 10 ml | CN=C=O | C2H3NO
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
product | N-(3-cyano-4-sec-butylthien-2-yl)-N'-methyl urea | C(#N)C1=C(SC=C1C(C)CC)NC(=O)NC | C11H15N3OS
